US07479493B2
Step A: 5-Bromo-2-(3,4-dichloro-phenoxy)-benzaldehyde.
To a solution of 5-bromo-2-fluoro-benzaldehyde (5.13 g, 25.4 mmol) in DMF (25 mL) were added K2CO3 (7.15 g, 51.8 mmol) and 3,4-dichloro-phenol (4.67 g, 28.8 mmol). The mixture was heated at 90° C. for 24 h and then was allowed to cool to room temperature (rt). Water was added and the mixture was extracted with Et2O. The combined organic layers were dried (MgSO4) and concentrated. The residue was diluted with DCM and hexanes and the resulting solids were collected by vacuum filtration to provide the desired product (4.74 g, 54%). 1H NMR (CDCl3): 10.36 (s, 1H), 8.06 (d, J=2.5, 1H), 7.67 (dd, J=8.8, 2.6, 1H), 7.46 (d, J=8.8, 1H), 7.17 (d, J=2.8, 1H), 6.92 (dd, J=8.8, 2.8, 1H), 6.84 (d, J=8.8, 1H).

reactant | 5-bromo-2-fluoro-benzaldehyde | 25.4 mmol, 5.13 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | K2CO3 | 51.8 mmol, 7.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-dichloro-phenol | 28.8 mmol, 4.67 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | Water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(3,4-dichloro-phenoxy)-benzaldehyde | 4.74 g, 54% | BrC=1C=CC(=C(C=O)C1)OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O2
